US04794186
2.4 g of ethyl (Z)-2-[((3S)-2-pyrrolidon-3-yl)-oxyimino]-3-oxo-n-butyrate are dissolved in 15 ml of methylene chloride, and 1.6 g of sulfuryl chloride are added thereto. The mixture is stirred at 15° to 25° C. for 20 hours. Then, the mixture is concentrated under reduced pressure to remove solvent. The residue is dissolved in chloroform, and the solution is washed with water. The chloroform solution is dried and concentrated under reduced pressure to dryness. Ethyl (Z)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]-3-oxo-4-chloro-n-butyrate is thereby obtained as crude product. The crude product thus obtained is dissolved in 20 ml of ethanol, and one g of thiourea and 1.2 g of N,N-dimethylaniline are added thereto. The mixture is stirred at 20° to 25° C. for 2 hours. Then, the mixture is concentrated under reduced pressure to remove solvent. The residue is dissolved in chloroform, and the solution is washed with water and an aqueous sodium bicarbonate solution, successively. The chloroform solution is dried and concentrated under reduced pressure to remove solvent. The residue is crystallized with isopropanol, and the crystals are collected by filtration. 1.2 g of ethyl (Z)-2-(2-aminothiazol-4-yl)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]acetate are obtained.

reactant | ethyl (Z)-2-[((3S)-2-pyrrolidon-3-yl)-oxyimino]-3-oxo-n-butyrate | 2.4 g | N1C([C@H](CC1)O\N=C(/C(=O)OCC)\C(C)=O)=O | C10H14N2O5
reactant | sulfuryl chloride | 1.6 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl (Z)-2-[((3S)-2-pyrrolidon-3-yl)oxyimino]-3-oxo-4-chloro-n-butyrate | N1C([C@H](CC1)O\N=C(/C(=O)OCC)\C(CCl)=O)=O | C10H13ClN2O5
